US05965730
A mixture of 3,4-dimethoxy-6-(2-chloroisonicotinoyl)aniline (2.93 g), methyl acetoacetate (2.16 ml), conc. hydrochloric acid (0.1 ml) and acetic acid (30 ml) is heated under reflux for two hours. The reaction mixture is cooled to room temperature, and thereto is added an aqueous sodium hydrogen carbonate solution. The mixture is extracted with ethyl acetate, and the extract is washed, dried, and concentrated. The residue is purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=9:1) to give 2-chloro-4-(6,7-dimethoxy-3-methoxycarbonyl-2-methylquinolin-4-yl)pyridine (3.0 g).

reactant | 3,4-dimethoxy-6-(2-chloroisonicotinoyl)aniline | 2.93 g | COC=1C=C(N)C(=CC1OC)C(C1=CC(=NC=C1)Cl)=O | C14H13ClN2O3
reactant | methyl acetoacetate | 2.16 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-4-(6,7-dimethoxy-3-methoxycarbonyl-2-methylquinolin-4-yl)pyridine | 3.0 g | ClC1=NC=CC(=C1)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)C)C(=O)OC | C19H17ClN2O4
